US05164400
A solution of 3-dimethylaminoacrylaldehyde (3.68 g) in dry acetonitrile (10 ml) was slowly added over a 30-minute period to a solution of phosphorus oxychloride (6.07 g) in dry acetonitrile (10 ml) with stirring at 0°-10° C. under nitrogen. A solution of 5,6-dihydro-4,4-dimethyl-1-(4-fluorophenyl)-4H-pyrrolo[3,2,1-ij]quinoline (3.70 g) in dry acetonitrile (9 ml) was slowly added to the reaction mixture at the same temperature. The reaction mixture was refluxed for 7 l hours under nitrogen, cooled to room temperature and slowly poured into a cold solution of sodium hydroxide (6.34 g) in water (130 ml) with stirring. The reaction mixture was extracted twice with toluene. The extracts were combined, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was chromatographed on a silica gel column eluting with a mixture of n-hexane and ethyl acetate (5:1, V/V). The fractions containing the object compound were collected and evaporated under reduced pressure. The residual oil was triturated with n-hexane to give yellow crystals of (E)-3-[5,6-dihydro-4,4-dimethyl-1-(4-fluorophenyl)-4H-pyrrolo[3,2,1-ij]quinolin-2-yl]acrylaldehyde (3.11 g).

reactant | 3-dimethylaminoacrylaldehyde | 3.68 g | CN(C=CC=O)C | C5H9NO
reactant | phosphorus oxychloride | 6.07 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5,6-dihydro-4,4-dimethyl-1-(4-fluorophenyl)-4H-pyrrolo[3,2,1-ij]quinoline | 3.70 g | CC1(N2C3=C(C=CC=C3CC1)C(=C2)C2=CC=C(C=C2)F)C | C19H18FN
reactant | sodium hydroxide | 6.34 g | [OH-].[Na+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 9 ml | C(C)#N | C2H3N
solvent | water | 130 ml | O | H2O
product | (E)-3-[5,6-dihydro-4,4-dimethyl-1-(4-fluorophenyl)-4H-pyrrolo[3,2,1-ij]quinolin-2-yl]acrylaldehyde | 3.11 g | CC1(N2C3=C(C=CC=C3CC1)C(=C2/C=C/C=O)C2=CC=C(C=C2)F)C | C22H20FNO
